US06310079B1
(E)-2-Styryl-1-(2-thiazolyl)-1H-benzimidazole
A stirred mixture of 2-styryl-1H-benzimidazole (220 mg, 1 mmol), 2-bromothiazole (328 mg, 2 mmol), potassium carbonate (138 mg, 1 mmol), copper bronze (20 mg) and nitrobenzene (10 ml) was heated to reflux under a nitrogen atmosphere for 7 h. The cooled reaction mixture was diluted with ethyl acetate (150 ml) and filtered through a pad of celite. The filtrate was washed consecutively with water (50 ml), and brine (50 ml), dried (magnesium sulfate) and concentrated to dryness. Column chromatography (silica gel, 100 g; n-hexane/ethyl acetate (9/1 to 3/1)) gave 199 mg of the titled compound as an orange oil, which was solidified on standing at room temperature. Recrystallization from isopropyl ether gave 117 mg (39%) of the titled compound as colorless crystals.

reactant | 2-styryl-1H-benzimidazole | 1 mmol, 220 mg | C(=CC1=CC=CC=C1)C1=NC2=C(N1)C=CC=C2 | C15H12N2
reactant | 2-bromothiazole | 2 mmol, 328 mg | BrC=1SC=CN1 | C3H2BrNS
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper bronze | 20 mg | [Cu] | Cu
product | (E)-2-Styryl-1-(2-thiazolyl)-1H-benzimidazole | 199 mg | C(=C\C1=CC=CC=C1)/C1=NC2=C(N1C=1SC=CN1)C=CC=C2 | C18H13N3S
